US06936612B2
8-Cyclopentyl-6-iodo-5-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.51 g, 3.76 mmol) and 2-benzenesulfonyl-3-phenyloxaziridine (0.98 g, 3.76 mmol) were combined in dichloromethane (14 mL) and stirred at room temperature until no starting material remained. The solvent was removed in vacuo and the residue was purified by chromatography (gradient 50% ethyl acetate in heptane to 100% ethyl acetate) to provide 8-cyclopentyl-6-iodo-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.16 g, 74%) as a white solid. MS (ESI); M++1: Calc'd, 418. Found 418. 1H NMR δ (300 MHz, CDCl3) 9.13 (s, 1H), 6.14-6.02 (m, 1H), 2.98 (s, 3H), 2.80 (s, 3H), 2.27-2.06 (m, 4H), 2.00-1.87 (m, 2H), 1.72-1.63 (m, 2H).

reactant | 8-Cyclopentyl-6-iodo-5-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 3.76 mmol, 1.51 g | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)SC)C)I)=O | C14H16IN3OS
reactant | 2-benzenesulfonyl-3-phenyloxaziridine | 3.76 mmol, 0.98 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
product | 8-cyclopentyl-6-iodo-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.16 g, 74% | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)S(=O)C)C)I)=O | C14H16IN3O2S
